US04104467
(A) N-(5-Nitro-1,3-benzodithiol-2-ylidene)benzenamine
A solution of 5-nitro-1,2,3-benzothiadiazole (4.6 g) in 50 ml of phenylisothiocyanate is heated at 220° C under an inert atmosphere until the evolution of nitrogen ceases (approximately 3 hours). The excess phenylisothiocyanate is removed in vacuo and the resultant residue chromatographed on 1000 ml of silica gel eluting with methylene chloride/pentane (1:4). The fractions containing the desired product are combined and concentrated in vacuo. The resultant solid is recrystallized from cyclohexane to yield 2.1 g of the title compound, melting point 136°-138° C.

reactant | 5-nitro-1,2,3-benzothiadiazole | 4.6 g | [N+](=O)([O-])C=1C=CC2=C(N=NS2)C1 | C6H3N3O2S
reactant | phenylisothiocyanate | 50 ml | C1(=CC=CC=C1)N=C=S | C7H5NS
product | N-(5-Nitro-1,3-benzodithiol-2-ylidene)benzenamine | 2.1 g | [N+](=O)([O-])C1=CC2=C(SC(S2)=NC2=CC=CC=C2)C=C1 | C13H8N2O2S2
